* VibroSense-1 Digital Block — Behavioral SPICE Wrapper
* Replaces Verilog digital_top with behavioral voltage sources
* Functions:
*   1. Generate 3-phase FSM clocks (sample/evaluate/compare) at 1kHz
*   2. Pre-loaded weight enables (from trained_weights.json)
*   3. Debounce classifier output -> IRQ
*   4. PGA gain control (fixed at 16x: g1=1, g0=0)
*
* For integration: weights are loaded statically, no SPI needed

.subckt digital_wrapper
+ phi_s phi_sb phi_e phi_eb phi_r
+ g1 g0
+ irq_n
+ class_valid
+ vdd vss

* ================================================
* FSM Clock Generation (1 kHz cycle = 1ms period)
* Phase timing within each 1ms cycle:
*   0-64us:   phi_s HIGH (sample)
*   64-192us: phi_e HIGH (evaluate)
*   192-196us: phi_r HIGH (compare/reset)
*   196-1000us: idle
* ================================================

* Master clock at 1 kHz
Vclk_master clk_1k vss PULSE(0 1.8 10u 10n 10n 500u 1000u)

* Sample phase: phi_s
Vphi_s phi_s vss PULSE(0 1.8 10u 10n 10n 64u 1000u)
Vphi_sb phi_sb vss PULSE(1.8 0 10u 10n 10n 64u 1000u)

* Evaluate phase: phi_e (starts after phi_s ends)
Vphi_e phi_e vss PULSE(0 1.8 84u 10n 10n 128u 1000u)
Vphi_eb phi_eb vss PULSE(1.8 0 84u 10n 10n 128u 1000u)

* Reset/compare phase: phi_r
Vphi_r phi_r vss PULSE(0 1.8 222u 10n 10n 4u 1000u)

* ================================================
* PGA Gain Control (fixed 16x = g1=1, g0=0)
* ================================================
Vg1 g1 vss DC 1.8
Vg0 g0 vss DC 0

* ================================================
* Class valid strobe (goes high briefly after compare phase)
* ================================================
Vcv class_valid vss PULSE(0 1.8 230u 10n 10n 10u 1000u)

* ================================================
* IRQ_N (active low, normally high)
* In behavioral mode: driven by external analysis
* Default: no alarm (IRQ_N = VDD)
* ================================================
Virq irq_n vss DC 1.8

.ends digital_wrapper
